US08039450B2
2-Cyclopentyloxy-6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-nicotinonitrile (5)
To a degassed solution of 6-(4-bromo-3-formyl-phenoxy)-2-cyclopentyloxy-nicotinonitrile (2.20 g, 5.68 mmol) in 1,4-dioxane (25 mL) was added bis(pinacolato)diboron (1.73 g, 6.81 mmol), potassium acetate (1.67 g, 17.04 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)chloride (0.20 g, 0.28 mmol). Degassed again, and the suspension was heated at 80° C. overnight. The mixture was passed through Celite® washed with EtOAc (100 mL), organic layer was washed with water (30 mL) and brine (30 mL) solution, dried over Na2SO4, filtered, and concentrated to give crude product, which was purified by flash chromatography on silica gel using 10-25% EtOAc/hexanes as eluent to yield the title compound (2.0 g, 83%) as white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.38 (s, 1H), 8.24 (d, J=8.2 Hz, 1H), 7.82 (d, J=8.2 Hz, 1H), 7.74 (s, 1H), 7.56 (d, J=8.2 Hz, 1H), 6.78 (d, J=8.2 Hz, 1H), 4.96 (br. s., 1H), 1.80-1.54 (m, 6H), 1.50-1.40 (m, 2H), 1.34 (s, 12H).

reactant | 6-(4-bromo-3-formyl-phenoxy)-2-cyclopentyloxy-nicotinonitrile | 5.68 mmol, 2.20 g | BrC1=C(C=C(OC2=NC(=C(C#N)C=C2)OC2CCCC2)C=C1)C=O | C18H15BrN2O3
reactant | bis(pinacolato)diboron | 6.81 mmol, 1.73 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 17.04 mmol, 1.67 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)chloride | 0.28 mmol, 0.20 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Cyclopentyloxy-6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-nicotinonitrile | 2.0 g, 83% | C1(CCCC1)OC1=C(C#N)C=CC(=N1)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O | C24H27BN2O5
